US06441017B1
Step A: 6-Hydroxy-2,3-dihydro-4H-chromen-4-one
A solution of 6-methoxy-2,3-dihydro-4H-chromen-4-one in 48% aqueous HBr (250 mL) and HOAc (250 mL) was heated to 75° C. for 6 hours. The reaction mixture was cooled, adjusted to pH≈5 by the addition of saturated aqueous Na2CO3 and extracted with CHCl3 (2×75 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo to give the desired compound.

reactant | 6-methoxy-2,3-dihydro-4H-chromen-4-one | COC=1C=C2C(CCOC2=CC1)=O | C10H10O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HBr | 250 mL | Br | BrH
solvent | HOAc | 250 mL | CC(=O)O | C2H4O2
product | 6-Hydroxy-2,3-dihydro-4H-chromen-4-one | OC=1C=C2C(CCOC2=CC1)=O | C9H8O3
